US07015328B2
4-(3-Bromo-4,5-dimethoxy-phenyl)-3-cyano-7-methyl-2-oxo-2H-pyrrolo[2,3-h]chromene
To a solution of 4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-2-imino-7-methyl-2H-pyrrolo[2,3-h]chromene (100 mg, 0.216 mmol) in THF:water (10:2) was added a ZnCl2 solution (1 mL, 1.0 M in CH2Cl2). The solution was stirred at room temperature for approximately 7 h. The reaction mixture was made basic with saturated NaHCO3 (10 mL), and extracted with EtOAc (2×25 mL). The EtOAc extracts were washed with brine (10 mL), dried over MgSO4, and evaporated to yield a yellow solid. The solid was purified by flash column chromatography (silica gel, EtOAc:hexanes 30-70% EtOAc) to yield 17 mg (18%) of the product as a yellow solid. 1H NMR (acetone-d6): 7.51-7.48 (m, 2H), 7.42 (d, J=1.8 Hz, 1H), 7.34 (d, J=2.1 Hz, 1H), 7.17 (d, J=8.7 Hz, 1H), 6.91 (dd, J=0.6, 3.3 Hz, 2H), 3.98 (s, 3H), 3.97 (s, 3H), 3.85 (s, 3H).

reactant | 4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-2-imino-7-methyl-2H-pyrrolo[2,3-h]chromene | 0.216 mmol, 100 mg | BrC=1C=C(C=C(C1OC)OC)C1=C(C(OC2=C3C(=CC=C12)N(C=C3)C)=N)C#N | C21H16BrN3O3
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF water | C1CCOC1.O
catalyst | ZnCl2 | 1.0 M, 1 mL | [Cl-].[Cl-].[Zn+2]
product | 4-(3-Bromo-4,5-dimethoxy-phenyl)-3-cyano-7-methyl-2-oxo-2H-pyrrolo[2,3-h]chromene | 17 mg, 18% | BrC=1C=C(C=C(C1OC)OC)C1=C(C(OC2=C3C(=CC=C12)N(C=C3)C)=O)C#N | C21H15BrN2O4
